US08470811B2
Step 1: 4-(1-Hydroxycyclobutyl)benzonitrile
Analogously to the process described in Example 5A/Step 1, 32.67 g (143 mmol) of 4-iodobenzonitrile, 75 ml (150 mmol) of 2 M isopropylmagnesium chloride solution in diethyl ether and 15.0 g (214 mmol) of cyclobutanone were used to obtain 13.31 g (78% of theory) of the title compound. The reaction time at RT in this case was 16 h, and, after the aqueous workup, the crude product was purified by means of suction filtration through 150 g of silica gel with 10:1→4:1 cyclohexane/ethyl acetate as the eluent.

reactant | 4-iodobenzonitrile | 143 mmol, 32.67 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | isopropylmagnesium chloride | 150 mmol, 2 M, 75 ml | C(C)(C)[Mg]Cl
reactant | cyclobutanone | 214 mmol, 15.0 g | C1(CCC1)=O | C4H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(1-Hydroxycyclobutyl)benzonitrile | OC1(CCC1)C1=CC=C(C#N)C=C1 | C11H11NO
